US06005008
a) Synthesis of 2-nitro 5phenyl phenol
A solution of 3-phenyl phenol (2 g, 11 mmol) in acetic acid was treated with concentrated nitric acid drop-wise until all starting material was consumed. The solution was partitioned between water and methylene chloride. The organic phase was separated and the aqueous phase was extracted once more with methylene chloride. The combined organic phases were dried over solution sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography (ethyl acetate/hexanes) to afford desired (1.2 g, 50%). 1H NMR (CDCl3): δ10.65 (s, 1H), 8.18 (d, 1H, J=10.0 Hz), 7.65 (d. 2H, J+6.0 Hz), 7.49 (m 3H), 7.34 (s, 1H), 7.10 (d, 1H, J=10.0Hz).

reactant | 3-phenyl phenol | 11 mmol, 2 g | C1(=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-nitro 5phenyl phenol | [N+](=O)([O-])C1=C(C=C(C=C1)C1=CC=CC=C1)O | C12H9NO3
